US05338740
D.[1-(5-Bromo-indan-1-yl)-2-butyl-5-chloro-1H-imidazol-4-yl]-methanol
To a solution of 1-(5-bromo-indan-1-yl)-2-butyl-5-chloro-1H-imidazole-4-carboxylic acid ethyl ester (486 mg, 1.13 mmol)in CH2Cl2 (5.0 mL) at 0° C. was added diisobutylaluminum hydride (Dibal-H) (1M solution in CH2Cl2, 5.0 mL). The reaction mixture was allowed to warm to room temperature and was stirred for 0.75 hour, carefully quenched with saturated aqueous NH4Cl (1 mL) and diluted with CH2Cl2 (100 mL). The organic solution was separated and washed with saturated aqueous NaHCO3 (2×10 mL), saturated aqueous NaCl (2×10 mL), dried (MgSO4) and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 100% EtOAC to give 400 mg of a colorless oil. 1H NMR (250 MHz, d6 -DMSO): d 7.55 (s, 1 H), 7.36 (d, 1 H), 6.83 (d, 1 H), 5.95 (t, 1 H), 4.85 (bs, 1 H), 4.18 (s, 2 H), 3.05 (m, 2 H), 2.70 (m, 3 H), 2.26 (m, 1 H), 1.64 (m, 2 H), 1.30 (m, 2 H), 0.90 (m, 3 H).

reactant | 1-(5-bromo-indan-1-yl)-2-butyl-5-chloro-1H-imidazole-4-carboxylic acid ethyl ester | 1.13 mmol, 486 mg | C(C)OC(=O)C=1N=C(N(C1Cl)C1CCC2=CC(=CC=C12)Br)CCCC | C19H22BrClN2O2
reactant | diisobutylaluminum hydride | 1M, 5.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | [1-(5-Bromo-indan-1-yl)-2-butyl-5-chloro-1H-imidazol-4-yl]-methanol | 400 mg | BrC=1C=C2CCC(C2=CC1)N1C(=NC(=C1Cl)CO)CCCC | C17H20BrClN2O
